US05470851
4-Diphenylmethylene-1-[3-(N-ethylamino)propyl]-piperidine
A solution of 1.14 g of 1-(3-acetamidopropyl)-4-(diphenylmethylene)piperidine (prepared as described in Preparation 33') in 7 ml of tetrahydrofuran was added dropwise to a suspension of 140 mg of lithium aluminum hydride in 10 ml of tetrahydrofuran at room temperature under a nitrogen atmosphere, and the mixture was heated under reflux for 4 hours. At the end of this time, the mixture was cooled to room temperature, and sodium sulfate decahydrate was added to the mixture to decompose excess lithium aluminum hydride. The insoluble material was removed by filtration. Ethyl acetate was added to the filtrate, and the mixture was washed with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate. Evaporation of solvent under reduced pressure gave 710 mg (yield 65%) of the title compound as an oil.

reactant | 1-(3-acetamidopropyl)-4-(diphenylmethylene)piperidine | 1.14 g | C(C)(=O)NCCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O
reactant | lithium aluminum hydride | 140 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-Diphenylmethylene-1-[3-(N-ethylamino)propyl]-piperidine | 710 mg, yield 65% | C1(=CC=CC=C1)C(=C1CCN(CC1)CCCNCC)C1=CC=CC=C1 | C23H30N2
